US07973012B2
(1) Preparation of (1S)-1,5-anhydro-2,3,4,6-tetra-O-acetyl-1-[2-acetoxy-5-[4-[2-[[[[2-hydroxy-1,1-bis(hydroxymethyl)ethyl]amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol
To a chloroform solution (300 μL) of 1,1′-carbonyldiimidazole (7.30 mg, 0.045 mmol) were added a chloroform solution (150 μL) of (1S)-1-[5-[4-(2-aminoethyl)benzyl]-2-acetoxy-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-acetyl-D-glucitol (18.4 mg, 0.030 mmol) and N-methyl morpholine (4.95 μL, 0.045 mmol), and the mixture was stirred for 30 minutes at room temperature. After that, to this reaction solution were added tris(hydroxymethyl)aminomethane (10.9 mg, 0.09 mmol) and N,N-dimethylformamide (150 μL), and this reaction mixture was stirred at 60° C. overnight. After the reaction mixture was cooled to room temperature, ethyl acetate was added thereto. And the mixture was washed with water, 1 M hydrochloric acid, and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (chloroform:methanol=95:5) to obtain the title compound (7.9 mg, 35%) as a colorless amorphous compound.

reactant | 1,1′-carbonyldiimidazole | 0.045 mmol, 7.30 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (1S)-1-[5-[4-(2-aminoethyl)benzyl]-2-acetoxy-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-acetyl-D-glucitol | 0.030 mmol, 18.4 mg | NCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)OC(C)=O)C)C=C1 | C32H39NO11
reactant | N-methyl morpholine | 0.045 mmol, 4.95 μL | CN1CCOCC1 | C5H11NO
reactant | tris(hydroxymethyl)aminomethane | 0.09 mmol, 10.9 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 150 μL | CN(C=O)C | C3H7NO
solvent | chloroform | 150 μL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 μL | C(Cl)(Cl)Cl | CHCl3
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-acetyl-1-[2-acetoxy-5-[4-[2-[[[[2-hydroxy-1,1-bis(hydroxymethyl)ethyl]amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol | 7.9 mg, 35% | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CCNC(=O)NC(CO)(CO)CO)C)OC(C)=O | C37H48N2O15
